US05212320
4N Hydrochloric acid in 1,4-dioxane (2 ml) was added to a solution of benzyl 4-[3-[3-[N-benzyl-N-(tert-butoxycarbonyl)amino]benzoyl]indol-1-yl]butyrate (0.31 g) in 1,4-dioxane (2 ml). The mixture was stirred at room temperature for 1 hour and evaporated. The residue was dissolved in ethyl acetate. The solution was washed wirh sodium bicarbonate aqueous solution and brine, dried over magnesium sulfate and evaporated to give benzyl 4-[3-(3-benzylaminobenzoyl)indol-1-yl]butyrate (258 mg) as an oil.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | benzyl 4-[3-[3-[N-benzyl-N-(tert-butoxycarbonyl)amino]benzoyl]indol-1-yl]butyrate | 0.31 g | C(C1=CC=CC=C1)N(C(=O)OC(C)(C)C)C=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC2=CC=CC=C2)C=CC1 | C38H38N2O5
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | benzyl 4-[3-(3-benzylaminobenzoyl)indol-1-yl]butyrate | 258 mg | C(C1=CC=CC=C1)NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC2=CC=CC=C2)C=CC1 | C33H30N2O3
